US04595539
Potassium 2-ethoxyethyl trithiocarbonate
To a solution of 6.79 g potassium t-butoxide in 300 ml of anhydrous tetrahydrofuran cooled to 0° C. under a nitrogen atmosphere was added 6.42 g of 2-mercaptoethyl ethyl ether. The resulting slurry was stirred at 25° C. for 1 hour, then 4.4 ml. of carbon disulfide was added dropwise at 0° C. The resulting solution was stirred at 25° C. for 30 min., then concentrated in vacuo. Diethyl ether (300 ml) was added and the mixture was filtered, and washed with ether and dried under nitrogen to yield 12.6 g of the title compound as a yellow solid.

reactant | potassium t-butoxide | 6.79 g | CC(C)([O-])C.[K+]
reactant | 2-mercaptoethyl ethyl ether | 6.42 g | C(C)OCCS | C4H10OS
reactant | carbon disulfide | C(=S)=S | CS2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Potassium 2-ethoxyethyl trithiocarbonate | 12.6 g | C(SCCOCC)([S-])=S.[K+] | InChI=1S/C5H10OS3.K/c1-2-6-3-4-9-5(7)8;/h2-4H2,1H3,(H,7,8);/q;+1/p-1
